US07687627B2
(S)-N-{3-[4-(4,8-diaza-1-thia-spiro[4.5]dec-8-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
The title compound was prepared by reacting (S)-N-{3-[4-(4-oxo-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide (1.0 mmol), 2-aminoethanethiol (1.0 mmol) and BF3.etherate (2.0 mmol) in tetrahydrofuran (10 ml) at a temperature 65° C. for 12 hours in 68% yield.

reactant | (S)-N-{3-[4-(4-oxo-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 1.0 mmol | O=C1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F | C17H20FN3O4
reactant | 2-aminoethanethiol | 1.0 mmol | NCCS | C2H7NS
reactant | BF3 | B(F)(F)F | BF3
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (S)-N-{3-[4-(4,8-diaza-1-thia-spiro[4.5]dec-8-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 68% yield | S1CCNC12CCN(CC2)C2=C(C=C(C=C2)N2C(O[C@H](C2)CNC(C)=O)=O)F | C19H25FN4O3S
